US07531553B2
Preparation XXXII: 4-(2-chloro-5-nitro-phenoxymethyl)-piperidine
4-(2-Chloro-5-nitro-phenoxymethyl)-piperidine-1-carboxylic acid tert-butyl ester (14.58 g, 39.3 mmol) was dissolved in TFA (100 mL). After stirring for 2 h at RT, the mixture was concentrated in vacuo and taken up into EtOAc and washed with NaOH, then NaHCO3 (sat). The organic layer was dried with Na2SO4, filtered and evaporated to yield the title compound as a yellow solid. MS(MH+)=NA; Calc'd 269.07 for C12H15ClN2O3.

reactant | 4-(2-Chloro-5-nitro-phenoxymethyl)-piperidine-1-carboxylic acid tert-butyl ester | 39.3 mmol, 14.58 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=CC(=C1)[N+](=O)[O-])Cl | C17H23ClN2O5
solvent | TFA | 100 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-(2-chloro-5-nitro-phenoxymethyl)-piperidine | ClC1=C(OCC2CCNCC2)C=C(C=C1)[N+](=O)[O-] | C12H15ClN2O3
